US09034866B2
Synthesis of (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(pyridin-3-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide
Prepared as described for (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(tetrahydro-2H-pyran-4-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide replacing oxan-4-amine hydrochloride with 3-(methylamino)pyridine. off-white solid (26.4 mg, 9%).

reactant | (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(tetrahydro-2H-pyran-4-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CCOCC3)C1)(C)C1=NOC(=C1)C | C26H27N5O6
reactant | 3-(methylamino)pyridine | CNC=1C=NC=CC1 | C6H8N2
product | (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(pyridin-3-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCC=3C=NC=CC3)C1)(C)C1=NOC(=C1)C | C27H24N6O5
